US06762320B2
N-[4-(3-Fluoro-benzyloxy)-phenyl]-2-methoxy-malonamic acid methyl ester
The title compound is prepared in analogy to example 2 from 4-(3-Fluoro-benzyloxy)-phenylamine and 2-methoxy-malonic acid monomethyl ester (Swan et al.; J. Chem. Soc. Perkin Trans. 1; 1985; 1757-1766). Yield=41%. Colorless solid. MS: m/e=348.2 (M++H).

reactant | 4-(3-Fluoro-benzyloxy)-phenylamine | FC=1C=C(COC2=CC=C(C=C2)N)C=CC1 | C13H12FNO
reactant | 2-methoxy-malonic acid monomethyl ester | COC(C(C(=O)O)OC)=O | C5H8O5
product | N-[4-(3-Fluoro-benzyloxy)-phenyl]-2-methoxy-malonamic acid methyl ester | Yield=41% | COC(C(C(=O)NC1=CC=C(C=C1)OCC1=CC(=CC=C1)F)OC)=O | C18H18FNO5
